US05591762
b) 4'-[(2-n-Propyl-4-methyl-6-(1,2-dimethyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylic Acid Hydrate
A mixture of 1.5 g (3 mMol) of tert.butyl 4'-[(2-n-propyl-4-methyl-6-(2-methyl-oxazol-4-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylate, 10 ml of 40% N-methylamine solution and 15 ml of N-methylformamide is heated for 10 hours to 200° C. in an autoclave. After cooling, the contents of the autoclave are stirred with about 40 ml of water, this suspension is adjusted to pH 6.5 with glacial acetic acid, then the crude product precipitated is suction filtered and dissolved in 1N sodium hydroxide solution. This solution is washed successively with 25 ml of acetic acid and diethylether, then adjusted to pH 6 with 20% citric acid. The product precipitated is suction filtered, washed with about 30 ml of water and dried, then triturated with diethylether and dried in a high vacuum.

reactant | tert.butyl 4'-[(2-n-propyl-4-methyl-6-(2-methyl-oxazol-4-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylate | 3 mMol, 1.5 g | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2C)C=2N=C(OC2)C | C33H35N3O3
reactant | N-methylamine | 10 ml | CN | CH5N
reactant | N-methylformamide | 15 ml | CNC=O | C2H5NO
reactant | water | about 40 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4'-[(2-n-Propyl-4-methyl-6-(1,2-dimethyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylic Acid Hydrate | O.C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2C)C=2N=C(N(C2)C)C | InChI=1S/C30H30N4O2.H2O/c1-5-8-28-32-29-19(2)15-23(26-18-33(4)20(3)31-26)16-27(29)34(28)17-21-11-13-22(14-12-21)24-9-6-7-10-25(24)30(35)36;/h6-7,9-16,18H,5,8,17H2,1-4H3,(H,35,36);1H2
